US09162987B2
4-Iodo-6-(2,3-difluoro-4-methoxyphenyl)pyrimidine (ACT-MIF-001)
The compound was prepared according to Example 1 using 2,3-difluoro-4-methoxyphenylboronic acid and 4,6-dichloropyrimidine. The resultant chloro compound was converted to iodo with hydroiodic acid as described in the general procedure.

reactant | 2,3-difluoro-4-methoxyphenylboronic acid | FC1=C(C=CC(=C1F)OC)B(O)O | C7H7BF2O3
reactant | 4,6-dichloropyrimidine | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | hydroiodic acid | I | HI
product | 4-Iodo-6-(2,3-difluoro-4-methoxyphenyl)pyrimidine | IC1=NC=NC(=C1)C1=C(C(=C(C=C1)OC)F)F | C11H7F2IN2O
